US07314945B1
Finally, in a dry 2-necked, round bottomed flask, fixed with a separatory funnel, containing 6.39 g (60 mmol) of the prepared butyryl chloride, and side arm water condenser fixed with a dry receiving flask, is placed 12.08 g (66 mmol) of sodium 2-(1-methylguanidino)acetate. The round bottomed flask is placed in an ice bath and the butyryl chloride is added drop wise. After addition is completed the mixture is shaken and the ice bath is replaced by a heating mantle. The flask is then heated until no more solution is dropping into the receiving flask. This crude distillate is then further fractionally distilled to yield butyric 2-(1-methylguanidino)acetic anhydride.

reactant | butyryl chloride | 60 mmol, 6.39 g | C(CCC)(=O)Cl | C4H7ClO
reactant | sodium 2-(1-methylguanidino)acetate | 66 mmol, 12.08 g | CN(C(=N)N)CC(=O)[O-].[Na+]
product | 2-(1-methylguanidino)acetic anhydride | CN(C(=N)N)CC(=O)OC(CN(C(=N)N)C)=O | C8H16N6O3
